US08664257B2
Step 2: 4-Chloro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid
The crude 4-chloro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester obtained (330 mg, 1.16 mmol) obtained in step 1 was dissolved in 6 ml of dioxane and 5.8 ml of an aqueous 1 M solution of lithium hydroxide were added. The mixture was stirred for 30 min at 56° C. Acidic aqueous work-up gave 320 mg (100%) of the title compound.

reactant | 4-chloro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=C1Cl)OC)C1=C(C=CC=C1)F | C12H10ClFN2O3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid | 320 mg, 100% | ClC=1C(=NN(C1OC)C1=C(C=CC=C1)F)C(=O)O | C11H8ClFN2O3
